* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1630.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 10
X§U1 N006 N004 +V 0 N002 LT1630
C1 N002 N004 47p
R1 N002 N001 2.32K
R2 N004 N001 6.65K
R3 N001 IN 2.32K
C2 N001 0 220p
X§U2 N006 N005 +V 0 OUT LT1630
C3 OUT N005 22p
R4 OUT N003 2.74K
R5 N005 N003 6.65K
R6 N003 N002 2.74K
C4 N003 0 470p
V2 N006 0 5
V3 IN 0 5 AC 1
.ac oct 100 100 10Meg
* Single Supply, 400kHz, 4th Order Butterworth Filter
.lib LTC.lib
.backanno
.end
